US08044068B2
A mixture of 2-chloro-4-methylquinoline (0.30 g), 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride (0.60 g), N,N-diisopropylethylamine (0.74 mL), and n-butanol (1.5 mL) was heated at 140° C. in a sealed tube for 23 h. The reaction mixture was diluted with chloroform and saturated aqueous sodium hydrogencarbonate, and then the aqueous layer was extracted with chloroform. The organic layer was dried with anhydrous sodium sulfate, the desiccant was removed by filtration, the filtrate was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH silica gel, hexane/ethyl acetate=1:1) to obtain 1-((S)-3-(4-methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.24 g). (2) 1-((S)-3-(4-Methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone (0.24 g) was dissolved in ethyl acetate (2.5 mL), followed by addition of a solution (0.28 mL) of 4 M HCl in ethyl acetate, the mixture was stirred at room temperature for 2 h, concentrated under reduced pressure, and then solidified with diethyl ether to obtain the title compound (0.24 g).

reactant | 2-chloro-4-methylquinoline | 0.30 g | ClC1=NC2=CC=CC=C2C(=C1)C | C10H8ClN
reactant | 1-((S)-3-aminopyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone mono hydrochloride | 0.60 g | Cl.N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O
reactant | N,N-diisopropylethylamine | 0.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | n-butanol | 1.5 mL | C(CCC)O | C4H10O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | 1-((S)-3-(4-methylquinolin-2-ylamino)pyrrolidin-1-yl)-2-(4-trifluoromethoxyphenyl)ethanone | 0.24 g | CC1=CC(=NC2=CC=CC=C12)N[C@@H]1CN(CC1)C(CC1=CC=C(C=C1)OC(F)(F)F)=O | C23H22F3N3O2
